US07705042B2
b) 1-(5-Azido-2-nitro-phenyl)-piperidine
To a solution of 1-(fluoro-2-nitro-phenyl)-piperidine (389 mg, 1.73 mmol, as prepared in the previous step) in 5, mL of DMF was added sodium azide (169 mg, 2.60 mmol) and the resultant mixture heated to 50° C. for 14 h, and then 80° C. for 6 h. The reaction was diluted with EtOAc (100 mL), washed with water (2×50 mL), dried (Na2SO4) and concentrated in vacuo. Purification by preparative TLC (50% EtOAc-hexane) afforded 316 mg (74%) of the title compound as a tan solid. Mass spectrum (ESI, m/z): Calcd. for C11H13N5O2, 248.1 (M+H), found 247.9.

reactant | 1-(fluoro-2-nitro-phenyl)-piperidine | FC=1C(=C(C=CC1)N1CCCCC1)[N+](=O)[O-] | C11H13FN2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | sodium azide | 2.60 mmol, 169 mg | [N-]=[N+]=[N-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-(5-Azido-2-nitro-phenyl)-piperidine | 316 mg, 74% | N(=[N+]=[N-])C=1C=CC(=C(C1)N1CCCCC1)[N+](=O)[O-] | C11H13N5O2
